US07485643B2
Step C: Preparation of 6-bromo-2-(2-chlorophenylamino)-3,4-difluorobenzoic acid methyl ester.
To a solution of 6-bromo-2-(2-chlorophenylamino)-3,4-difluorobenzoic acid (3.18 g, 8.77 mmol) in THF-MeOH (16 mL/5 mL) was added TMSCHN2 (5.30 mL, 10.6 mmol, 2 M solution in hexanes) at room temperature. The resulting mixture was stirred for 1 hour, quenched with AcOH, and diluted with EtOAc. The organic layer was washed with water, saturated NaHCO3 (2×), and brine. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo to afford the desired product (3.31 g, 100%) that was used directly without further purification.

reactant | 6-bromo-2-(2-chlorophenylamino)-3,4-difluorobenzoic acid | 8.77 mmol, 3.18 g | BrC1=CC(=C(C(=C1C(=O)O)NC1=C(C=CC=C1)Cl)F)F | C13H7BrClF2NO2
reactant | TMSCHN2 | 10.6 mmol, 2 M, 5.30 mL | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | THF MeOH | 16 mL | C1CCOC1.CO
product | 6-bromo-2-(2-chlorophenylamino)-3,4-difluorobenzoic acid methyl ester | 3.31 g, 100% | COC(C1=C(C(=C(C=C1Br)F)F)NC1=C(C=CC=C1)Cl)=O | C14H9BrClF2NO2
